US07205318B2
Cis-3-amino-4-benzyloxycarbonylamino-piperidine-1-carboxylic acid tert-butyl ester (332.1 mg, 0.95 mmol), from Example 112 Part F, was mixed with 10 mL of CH2Cl2 and 96 mg (0.95 mmol) of triethylamine. The resulting solution was cooled with an ice-water bath. Freshly prepared 4-(2-oxopyridin-1(2H)-yl)benzoyl chloride (222 mg, 0.95 mmol), from part A, was added portion wise. Stirring was continued at rt overnight. CH2Cl2 (10 mL) was added, and the solution was washed with water (3×3 mL). The organic phase was dried over MgSO4, filtered, and evaporated to yield cis-4-Benzyloxycarbonylamino-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (343.2 mg) as a crude oil, which was further purified by flash chromatography (ISCO system; 10 g cartridge Eluent AcOEt/Hexane 20%). 1H NMR (400 MHz, CDCl3) δ 7.83 (d, J=8.4 Hz, 2H), 7.42–7.24 (m, 8H), 7.06 (d, J=6.5 Hz, 1H), 6.62 (d, J=9.1 Hz, 1H), 6.27 (t, 1H), 5.06 (s, 2H), 4.34 (bs, 1H), 4.08 (bs, 1H), 3.87 (m, 1H), 3.16 (d, J=13.4 Hz, 1H), 2.98 (t, 1H), 1.85 (bs, 1H), 1.65 (m, 1H), 1.39 (m, 9H), ppm. LC-MS (ESI) 569.24 [M+Na]+, tR=6.331 min (Shimadzu Phenomenex S5 ODS 4.6 ×50 mm Luna flow rate 2.5 mL/mn; detection at 220 nM; Gradient elution 0% to 100% B over 8 min; (A=10% MeOH, 90% H2O, 0.2% H3PO4& B=90% MeOH, 10% H2O, 0.2% H3PO4)).

reactant | Cis-3-amino-4-benzyloxycarbonylamino-piperidine-1-carboxylic acid tert-butyl ester | 0.95 mmol, 332.1 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)N | C18H27N3O4
reactant | triethylamine | 0.95 mmol, 96 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(2-oxopyridin-1(2H)-yl)benzoyl chloride | 0.95 mmol, 222 mg | O=C1N(C=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C12H8ClNO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | cis-4-Benzyloxycarbonylamino-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 343.2 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1C(C=CC=C1)=O)=O | C30H34N4O6
